US08912210B2
Step A: 5-Bromo-6-methyl-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one
To a stirred mixture of 3-bromo-6-hydroxy-2-methylpyridine (25.0 g, 133 mmol) and cesium carbonate (52.0 g, 160 mmol) in 1,4-dioxane (600 mL) was added 2,2,2-trifluoroethyl triflate (40.1 g, 173 mmol) and the resulting mixture was heated at 50° C. for 4 h and then allowed to cool to ambient temperature. The resulting mixture was filtered and the filtrate was concentrated to dryness in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of CH2Cl2:EtOAc—100:0 to 60:40, to give the title compound. MS: m/z=269.9 (M+1).

reactant | 3-bromo-6-hydroxy-2-methylpyridine | 133 mmol, 25.0 g | BrC=1C(=NC(=CC1)O)C | C6H6BrNO
reactant | cesium carbonate | 160 mmol, 52.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,2-trifluoroethyl triflate | 173 mmol, 40.1 g | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
solvent | 1,4-dioxane | 600 mL | O1CCOCC1 | C4H8O2
product | 5-Bromo-6-methyl-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one | BrC=1C=CC(N(C1C)CC(F)(F)F)=O | C8H7BrF3NO
